US07498440B2
1-azabicyclo[2.2.2]oct-4-yl[bis(3-methylphenyl)]methanol
A solution of 3-methylphenylmagnesiumbromide (1.0 M in THF, 3.3 mL, 3.3 mmol) was chilled down to 0° C. under Ar. Ethyl 1-azabicyclo[2.2.2]octane-4-carboxylate (0.1484 g, 0.810 mmol) in THF (4 mL) was slowly added to the reaction mixture at 0° C. over 20 min. The reaction was allowed to warm up to room temperature and then heated at 60° C. for 16 h. The reaction was chilled in an ice bath, quenched with saturated NH4Cl, and concentrated under vacuum. The resulting residue was treated with H2O and extracted with EtOAc. The combined organic layers were dried with MgSO4, filtered, and concentrated under vacuum to yield the desired product (0.1806 g, 69.4%). EI-MS m/z 322(M+H+) Rt (1.54 min).

reactant | 3-methylphenylmagnesiumbromide | 3.3 mmol, 1.0 M, 3.3 mL | CC=1C=C(C=CC1)[Mg]Br
reactant | Ethyl 1-azabicyclo[2.2.2]octane-4-carboxylate | 0.810 mmol, 0.1484 g | N12CCC(CC1)(CC2)C(=O)OCC | C10H17NO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-azabicyclo[2.2.2]oct-4-yl[bis(3-methylphenyl)]methanol | 0.1806 g, 69.4% | N12CCC(CC1)(CC2)C(O)(C2=CC(=CC=C2)C)C2=CC(=CC=C2)C | C22H27NO
